US06608049B2
A solution of 56 mg (0.113 mmol) of ethyl [5-(4-{[ethoxy(oxo)acetyl]amino}-2,6-dimethylphenoxy)-3-isopropyl-1H-indazol-1-yl](oxo)acetate in 6 ml of ethanol is treated with a spatula-tipful of sodium ethoxide and stirred at room temperature for 30 min. 5 ml of satd ammonium chloride solution are added, the aqueous phase is extracted 2× with ethyl acetate, and the combined organic phases are washed 1× with water, dried over sodium sulphate and concentrated in vacuo and dried. 28 mc, (63%) of ethyl ({3,5-dimethyl-4-[(3-propyl-1H-indazol-5-yl)oxy]phenyl}amino)(oxo)-acetate are obtained.

reactant | ethyl [5-(4-{[ethoxy(oxo)acetyl]amino}-2,6-dimethylphenoxy)-3-isopropyl-1H-indazol-1-yl](oxo)acetate | 0.113 mmol, 56 mg | C(C)OC(C(=O)NC1=CC(=C(OC=2C=C3C(=NN(C3=CC2)C(C(=O)OCC)=O)C(C)C)C(=C1)C)C)=O | C26H29N3O7
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | ethyl ({3,5-dimethyl-4-[(3-propyl-1H-indazol-5-yl)oxy]phenyl}amino)(oxo)-acetate | 63% | CC=1C=C(C=C(C1OC=1C=C2C(=NNC2=CC1)CCC)C)NC(C(=O)OCC)=O | C22H25N3O4
